2144-11-13 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2144-11-12**] 08:00 PM
 FEVER - 101.4
F - [**2144-11-13**] 12:00 AM
   - Pt made DNR (Currently DNI)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Metronidazole - [**2144-11-13**] 01:30 AM
   Vancomycin - [**2144-11-13**] 01:47 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-13**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 123 (123 - 141) bpm
   BP: 106/72(80) {87/60(48) - 168/130(138)} mmHg
   RR: 26 (21 - 26) insp/min
   SpO2: 99%
    CVP: 17 (16 - 21)mmHg
   Total In:
                                                                    355 mL
                                                                    734 mL
   PO:
   TF:
   IVF:
                                                                    355 mL
                                                                    734 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    550 mL
   Urine:
                                                                  1,300 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -945 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.37/31/150/17/-5
   Ve: 12.8 L/min
   PaO2 / FiO2: 375
   Physical Examination
   GEN: intubated, sedated, overweight, NAD
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: distant heart sounds, s1s2 no audible m/r/g
   PULM: b/l ae coarse inspiratory breath sounds, +scant exp wheezing, c/r
   ABD: no BS, soft, distended, TTP (evidenced by wincing on exam), no
   guarding.
   EXT: No C/C, 1+E, no palpable cords
   NEURO: intubated, sedated, +rigors, squeezes hands, opens eyes on
   command.
   SKIN: +macular purpuric rash on trunk and arms, blanching.
   Labs / Radiology
   148 K/uL
   11.4 g/dL
   151 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.6 mEq/L
   15 mg/dL
   105 mEq/L
   137 mEq/L
   33.4 %
   2.4 K/uL
        [image002.jpg]
                             [**2144-11-12**]  03:25 PM
                             [**2144-11-12**]  08:34 PM
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  05:50 AM
   WBC
   2.0
   2.4
   Hct
   30.4
   33.4
   Plt
   123
   148
   Cr
   1.0
   TropT
   0.05
   TCO2
   16
   19
   Glucose
   151
   Other labs: PT / PTT / INR:16.1/31.4/1.4, CK / CKMB /
   Troponin-T:92/6/0.05, Differential-Neuts:65.0 %, Band:16.0 %, Lymph:6.0
   %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.3 mmol/L, Ca++:7.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   41 y.o male with unresectable anaplastic astrocytoma of the spine who
   presented with weakness and hypotension.
   .
   # Septic Shock-Pt hypotensive, elevated lactate, with signs of organ
   ischemia given elevated troponin, ARF. Likely sources include pneumonia
   give Chest CT findings, in particular aspiration. Other sources include
   urinary tract given chronic foley catherization and +u/a. Other causes
   to explain hypotension/shock include hypovolemia, neurogenic or
   cardiogenic. Cardiogenic is a possibility given elevated CVP to 20.
   However, pt without EKG findings suggestive of ischemia/infarct. Trop
   is elevated however, in the setting of ARF and hypoperfusion. Other
   possibilities of hypotension include PE-pt hypoxic, but underwent CT
   chest. Tamponade is a possibility, but pt without elevated JVP.
   - Central venous line
   - IV fluids to goal CVP 8-12, currently above goal.
   -  Levophed if needed to maintain MAP > 65 and UOP > 30cc/hr
   -neosyn, wean as tol.
   - Broad spectrum antiobiotics to cover for sepsis including pulm and GU
   sources.
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve.
   -stress dose steroids, given chronic dexa at home.
   -trend lactate.
   -echo in am.
   -f/[**Location 39**] reads ct chest/abd/pelvis.
   .
   #metabolic acidosis-likely secondary to sepsis/lactic acidosis. AG 15.
   Unlikely to be compensatory from resp causes.
   -IVF
   -trend lactate.
   .
   #malignancy-unresectable anaplastic astrocytoma s/p radiation,
   currently undergoing chemo with avastin.
   -neuro onc recs
   -solumedrol IV, dexa at home.
   .
   #HTN-currently hypotensive and on pressors. Hold home BP meds.
   .
   #ARF-Likely prerenal in the setting of sepsis, hypotension. Currently
   resolved s/p IVF and pressors.
   -trend Cr.
   -will send ulytes, renal u/s if continues.
   .
   #hyponatremia/hypochloremia-likely in the setting of hypovolemia.
   Improved after IVF.
   .
   #leukopenia-likely secondary to chemotherapy. Not neutropenic
   -trend WBC.
   .
   #anemia-likely secondary to chemotherapy +/- ACD.
   -iron studies
   -trend HCT
   -guaiac stools
   ICU Care
   Nutrition: npo
   Glycemic Control: HISS
   Lines: RIJ, PIV
   Prophylaxis:
   DVT: hep sc, pneumoboots
   Stress ulcer: ppi
   VAP:  abx, chlorhexadine rinse.
   Comments:
   Communication:  Comments: pt
s sisters
   [**Name (NI) 36**] status: DNR, not DNI
   Disposition: ICU

2144-11-13 09:30:00 Physician Attending Progress Note
Chief Complaint: septic shock
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2144-11-12**] 08:00 PM
 FEVER - 101.4
F - [**2144-11-13**] 12:00 AM
   Neo weaned off.  Discussion with family --> DNR in case of full arrest.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Metronidazole - [**2144-11-13**] 01:30 AM
   Vancomycin - [**2144-11-13**] 01:47 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   vanco, flagyl, SQH, solumedrol 80 q8, prozac, SQI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-13**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 111 (111 - 141) bpm
   BP: 96/66(72) {87/60(48) - 168/130(138)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 11 (11 - 21)mmHg
   Total In:
                                                                    366 mL
                                                                  1,258 mL
   PO:
   TF:
   IVF:
                                                                    366 mL
                                                                  1,258 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,720 mL
   Urine:
                                                                  1,300 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -934 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.37/31/150/16/-5
   Ve: 13.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   140 K/uL
   218 mg/dL
   0.7 mg/dL
   16 mEq/L
   4.4 mEq/L
   13 mg/dL
   104 mEq/L
   138 mEq/L
   31.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2144-11-12**]  03:25 PM
                             [**2144-11-12**]  08:34 PM
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  04:23 AM
                             [**2144-11-13**]  05:50 AM
   WBC
   2.0
   2.4
   3.9
   Hct
   30.4
   33.4
   31.3
   Plt
   123
   148
   140
   Cr
   1.0
   0.7
   TropT
   0.05
   0.15
   TCO2
   16
   19
   Glucose
   151
   218
   Other labs: PT / PTT / INR:20.0/31.0/1.9, CK / CKMB /
   Troponin-T:92/6/0.15, ALT / AST:61/23, Alk Phos / T Bili:83/1.4,
   Differential-Neuts:97.0 %, Band:1.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:2.9 mmol/L, Albumin:2.6 g/dL, Ca++:7.6 mg/dL, Mg++:3.0
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR with left basilar opacity and some perihilar fluffiness.
   CT: basilar consolidation L>R; some apical GGO with ?nodularity
   Assessment and Plan
   41-year-old man with
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER (astrocytoma)
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC (lactic)
 PNEUMONIA, ASPIRATION
 ACUTE MI (most likely demand)
   There may be multiple sources of infection.  The most likely are
   pneumonia and urinary.  At present there is no headache and he follows
   commands; there were no meningitic prodrome.  C diff is in the
   differential.
          Cover MRSA and GNR.
          Cover atypicals
          Cultures including influenza and C diff, with appropriate
   precautions.
          No signs of intra-abdominal pathology at present
          PCP is less likely given overall picture; will test but not
   treat empirically at this point.
   For hemodynamic management
          Echocardiogram today (urgent but not emergent)
          Keep CVP >=[**10-18**]
          Wean levophed as tolerated
          Stress dose steroids
          Will leave intubated until shock state resolved.
   For cardiac:
          Echo today
          EKG and serial enzymes
          Unstable plaque seems very unlikely
   Will discuss spinal cord and oncologic issues with his oncologist.
   ICU Care
   Nutrition: begin gentle tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   18 Gauge - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Start H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) but otherwise aggressive care
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2144-11-14 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-11-13**] 08:00 AM
 ULTRASOUND - At [**2144-11-13**] 11:45 AM
   blateral lower extremity doppler
   - Added levo to abx- now on levo, vanco, zosyn, flagyl (abx all
   approved by ID)
   -TTE with Severe regional left ventricular systolic dysfunction
   consistent with Takatsubo cardiomyopathy. Mild mitral regurgitation. No
   vegetations identified.
   -Cx from [**11-12**] GNR in urine and blood- on abx as above. Speciation
   pending
   -Decided to postpone A line. Not needed at this time emergently and
   family would rather not have it. If he seems to be decompensating or
   not getting good peripheral BP readings, will reassess this.
   -No longer on Neo in the am. Levo being weaned off.
   -Also decided to hold on bronchoscopy for now
   -Stool C diff ordered
   -Urine legionella Ag neg
   -Ordered 1L NS bolus to see if this improved his pressor requirement at
   6p. Levo went down to 0.2 from 0.3 temporarily and CVP stable at 10.
   Gave second liter- Levo requirement still 0.2 and CVP 14. Shortly
   after, Levo had to be uptitrated again. Thus, failed fluid challenge.
   -Changed PPI to H2 blocker
   -On droplet precautions while resp viral swab pending
   - CE rpt 4p 0.3 from 0.15. Stable at 10p at 0.3. RPT 4 am with am labs.
   -Paged then e-mailed Dr. [**Last Name (STitle) 2351**] to let him know the pt is here
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-13**] 08:00 AM
   Levofloxacin - [**2144-11-13**] 03:00 PM
   Metronidazole - [**2144-11-14**] 12:00 AM
   Vancomycin - [**2144-11-14**] 12:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-11-13**] 05:00 PM
   Famotidine (Pepcid) - [**2144-11-13**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-14**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 96 (83 - 120) bpm
   BP: 99/61(70) {82/55(62) - 142/96(106)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (6 - 13)mmHg
   Total In:
                                                                  3,720 mL
                                                                    474 mL
   PO:
   TF:
   IVF:
                                                                  3,720 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                    400 mL
   Urine:
                                                                  4,150 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 466 (466 - 560) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 124
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 13.2 L/min
   Physical Examination
   GEN: intubated, arousable and able to follow commands, overweight, NAD
   HEENT: PERRL, sclera anicteric,
   CV: distant heart sounds, s1s2, no audible m/r/g
   PULM: b/l equal inspiratory breath sounds, no W/R/R
   ABD: Rare BS, soft, distended.
   EXT: No C/C, 3+E at ankles an hands.
   Labs / Radiology
   140 K/uL
   9.3 g/dL
   180 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   11 mg/dL
   102 mEq/L
   135 mEq/L
   27.4 %
   2.7 K/uL
        [image002.jpg]
                             [**2144-11-12**]  03:25 PM
                             [**2144-11-12**]  08:34 PM
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  04:23 AM
                             [**2144-11-13**]  05:50 AM
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
   WBC
   2.0
   2.4
   3.9
   2.7
   Hct
   30.4
   33.4
   31.3
   27.4
   Plt
   123
   148
   140
   Cr
   1.0
   0.7
   0.6
   0.4
   TropT
   0.05
   0.15
   0.30
   0.30
   0.23
   TCO2
   16
   19
   Glucose
   151
   218
   222
   180
   Other labs: PT / PTT / INR:16.9/32.8/1.5, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:52/36, Alk Phos / T Bili:74/1.3,
   Differential-Neuts:97.0 %, Band:1.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:3.5 mmol/L, Albumin:2.6 g/dL, Ca++:7.8 mg/dL, Mg++:2.3
   mg/dL, PO4:1.9 mg/dL
   Echo: Severe regional left ventricular systolic dysfunction consistent
   with Takatsubo cardiomyopathy. Mild mitral regurgitation. No
   vegetations identified. If clinically suggested, the absence of a
   vegetation by 2D echocardiography does not exclude endocarditis.
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   41 y.o male with unresectable anaplastic astrocytoma of the spine who
   presented with weakness and hypotension.
   .
   # Septic shock- Levophed weaned by 80% overnight. Sources still include
   question aspiration PNA vs Urosepsis secondary to indwelling foley.
   Now with GNR septicemia sensitive to cefazolin.
   - IV fluids to goal CVP 8-12, currently above goal.
   - Wean Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Cont Cefazolin/Flagyl antiobiotics to covering for simultaneous
   Urosepsis and potential C diff..
   - Trend WBC count fever curve.
   - Stress dose steroids, given chronic dexa at home.
   .
   # Acute Respiratory Failure: Pt much improved this AM with repeat RSBI
   of 55. Not Hypoxemic or Hypercarbic, however will keep intubated for
   the present time given cardiac issues and volume overload at this time.
   - Transitioned to pressure support.
   # Elevated Troponin: Trop 0.3 from .15 in AM, but leveled off and
   CK/Trop trending down this AM. Poor R wave progression, question
   anterior t-wave flattening. Troponin bump likely secondary to demand.
   Plaque rupture unlikely.  TTE with evidence of takatsubo physiology
   -          Ask cardiology about need for anticoagulation
   -          Hold off on ASA
   .
   # Thrombocytopenia: ? of HIT but most likely etiology is GNR
   septicemia.  Will keep Heparin SQ for PPx given risk of DVT.
   - ? Send HIT Ab if drops further below 50K
   - trend plts
   .
   # Gap Metabolic Acidosis-likely secondary to sepsis/lactic acidosis. AG
   of 10.
   -IVF
   - wean pressors to maintain MAPs >65
   .
   # Malignancy-unresectable anaplastic astrocytoma s/p radiation,
   currently undergoing chemo with avastin.
   -neuro onc recs
 Dr. [**Last Name (STitle) 2351**] paged and e-mailed yesterday
   -solumedrol IV, dexamethasone at home.
   .
   # ARF
 Resolved with IVF and pressors. Etiology likely Pre-renal.
    -trend Cr.
   -will send ulytes, renal u/s if continues.
   .
   # Leukopenia-likely secondary to chemotherapy. Not neutropenic
   -trend WBC.
   .
   # Anemia-likely secondary to chemotherapy +/- ACD.
   -iron studies
   -trend HCT
   -guaiac stools
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   18 Gauge - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 Blocker
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2144-11-14 11:37:00 Physician Attending Progress Note
Chief Complaint: shock and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-11-13**] 08:00 AM
   -- showed concern for apical ballooning syndrome
   Norepi weaned to 0.1 in the context of fluid repletion
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-13**] 08:00 AM
   Levofloxacin - [**2144-11-13**] 03:00 PM
   Vancomycin - [**2144-11-14**] 12:30 AM
   Metronidazole - [**2144-11-14**] 08:00 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-11-14**] 08:30 AM
   Famotidine (Pepcid) - [**2144-11-14**] 09:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-14**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 81 (81 - 120) bpm
   BP: 101/66(75) {82/55(62) - 142/96(106)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  3,720 mL
                                                                  1,779 mL
   PO:
   TF:
   IVF:
                                                                  3,720 mL
                                                                  1,739 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                    620 mL
   Urine:
                                                                  4,150 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                  1,160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (466 - 600) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   88 K/uL
   180 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.5 mEq/L
   11 mg/dL
   102 mEq/L
   135 mEq/L
   27.4 %
   2.7 K/uL
        [image002.jpg]
                             [**2144-11-12**]  03:25 PM
                             [**2144-11-12**]  08:34 PM
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  04:23 AM
                             [**2144-11-13**]  05:50 AM
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
   WBC
   2.0
   2.4
   3.9
   2.7
   Hct
   30.4
   33.4
   31.3
   27.4
   Plt
   123
   148
   140
   88
   Cr
   1.0
   0.7
   0.6
   0.4
   TropT
   0.05
   0.15
   0.30
   0.30
   0.23
   TCO2
   16
   19
   Glucose
   151
   218
   222
   180
   Other labs: PT / PTT / INR:16.9/32.8/1.5, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:52/36, Alk Phos / T Bili:74/1.3,
   Differential-Neuts:97.0 %, Band:1.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:3.5 mmol/L, Albumin:2.6 g/dL, Ca++:7.8 mg/dL, Mg++:2.3
   mg/dL, PO4:1.9 mg/dL
   Imaging: CXR with increased basilar opacities
   Microbiology: GNR - pan sensitive
   ECG: lateral TWF
   Assessment and Plan
   41-year-old man with
 RESPIRATORY FAILURE, ACUTE
 SHOCK, SEPTIC
 PNEUMONIA, ASPIRATION
 HEART FAILURE, SYSTOLIC, ACUTE (apical ballooning syndrome)
 URINARY TRACT INFECTION
 ACIDOSIS, METABOLIC (lactic)
 CANCER (MALIGNANT NEOPLASM), OTHER (astrocytoma)
   Identified source of infections are:
   1)       GNR urinary tract infection
   2)       GNR bacteremia
   3)       Probable aspiration pneumonia
   We will continue to treat for GNR (narrow to Ancef based on
   sensitivities).  We will test for C diff and treat empirically given
   diarrhea, recent hospitalization, and PPI use.
   We will try to wean levophed as tolerated.  He is now adequately volume
   replete.  Begin steroid wean tomorrow.
   We will discuss whether anticoagulation is needed for his apical
   akinesis with cardiology.  If recommended, will discuss bleeding risks
   with his oncologists.
   Thrombocytopenia is most likely related to sepsis +/- ABX, though
   pancytopenia is concerning.  Will continue SQH for now, since risks of
   DVT >> likelihood of HIT at this point but will re-evaluate
   frequently.  [**Month (only) 51**] need further evaluation if pancytopenia progresses.
   ICU Care
   Nutrition:
   Comments: begin TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   18 Gauge - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots.  SQH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2144-11-15 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2144-11-14**] 12:16 PM
   - With extra boluses, patient weaned off pressors
   - Hct fell to 24.5 with decreasing platelets -> hemolysis labs sent
   - Abx changed to Cefazolin for GNR bacterimia and Flagyl for ? C.diff.
   - Droplet precautions and Rapid viral screen sent
   - Cards consult for ? need for anticoag with Takasubo physiology ->
   would
   recommend short course if okay with Onc (? bleed into spine)
   - Gentle diureses tomorrow if remains stable off pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-13**] 08:00 AM
   Levofloxacin - [**2144-11-13**] 03:00 PM
   Vancomycin - [**2144-11-14**] 12:30 AM
   Metronidazole - [**2144-11-14**] 04:00 PM
   Cefazolin - [**2144-11-15**] 05:45 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-11-14**] 08:29 PM
   Heparin Sodium (Prophylaxis) - [**2144-11-15**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-15**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 62 (62 - 99) bpm
   BP: 97/66(73) {96/56(67) - 112/73(82)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 9 (3 - 20)mmHg
   Total In:
                                                                  2,994 mL
                                                                    116 mL
   PO:
   TF:
   IVF:
                                                                  2,954 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    305 mL
   Urine:
                                                                  1,340 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,654 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (480 - 600) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   46 K/uL
   8.1 g/dL
   113 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.0 mEq/L
   17 mg/dL
   107 mEq/L
   142 mEq/L
   23.8 %
   1.5 K/uL
        [image002.jpg]
                             [**2144-11-12**]  08:34 PM
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  04:23 AM
                             [**2144-11-13**]  05:50 AM
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
   WBC
   2.4
   3.9
   2.7
   2.6
   1.8
   1.5
   Hct
   33.4
   31.3
   27.4
   24.8
   24.5
   23.8
   Plt
   148
   140
   88
   75
   58
   46
   Cr
   1.0
   0.7
   0.6
   0.4
   0.5
   0.4
   TropT
   0.05
   0.15
   0.30
   0.30
   0.23
   TCO2
   16
   19
   Glucose
   151
   218
   222
   180
   128
   113
   Other labs: PT / PTT / INR:15.9/32.5/1.4, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:97.0 %, Band:1.0 %, Lymph:1.0
   %, Mono:0.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   41 y.o male with unresectable anaplastic astrocytoma of the spine who
   presented with weakness and hypotension.
   .
   # Septic shock- Levophed weaned by 80% overnight. Sources still include
   question aspiration PNA vs Urosepsis secondary to indwelling foley.
   Now with GNR septicemia sensitive to cefazolin.
   Identified source of infections are:
   1)       GNR urinary tract infection
   2)       GNR bacteremia
   3)       Probable aspiration pneumonia
   We will continue to treat for GNR (narrow to Ancef based on
   sensitivities).  We will test for C diff and treat empirically given
   diarrhea, recent hospitalization, and PPI use.
   - IV fluids to goal CVP 8-12, currently above goal.
   - Wean Levophed to maintain MAP > 65 and UOP > 30cc/hr
   - Cont Cefazolin/Flagyl antiobiotics to covering for simultaneous
   Urosepsis and potential C diff..
   - Trend WBC count fever curve.
   - Stress dose steroids, given chronic dexa at home.
   .
   We will try to wean levophed as tolerated.  He is now adequately volume
   replete.  Begin steroid wean tomorrow.
   # Acute Respiratory Failure: Pt much improved this AM with repeat RSBI
   of 55. Not Hypoxemic or Hypercarbic, however will keep intubated for
   the present time given cardiac issues and volume overload at this time.
   - Transitioned to pressure support.
   # Elevated Troponin: Trop 0.3 from .15 in AM, but leveled off and
   CK/Trop trending down this AM. Poor R wave progression, question
   anterior t-wave flattening. Troponin bump likely secondary to demand.
   Plaque rupture unlikely.  TTE with evidence of takatsubo physiology
   -          Ask cardiology about need for anticoagulation
   -          Hold off on ASA
   .
   # Thrombocytopenia: ? of HIT but most likely etiology is GNR
   septicemia.  Will keep Heparin SQ for PPx given risk of DVT. We will
   discuss whether anticoagulation is needed for his apical akinesis with
   cardiology.  If recommended, will discuss bleeding risks with his
   oncologists. Most likely related to sepsis +/- ABX, though pancytopenia
   is concerning.  Will continue SQH for now, since risks of DVT >>
   likelihood of HIT at this point but will re-evaluate frequently.  [**Month (only) 51**]
   need further evaluation if pancytopenia progresses.
   - ? Send HIT Ab if drops further below 50K
   - trend plts
   .
   # Gap Metabolic Acidosis-likely secondary to sepsis/lactic acidosis. AG
   of 10.
   -IVF
   - wean pressors to maintain MAPs >65
   .
   # Malignancy-unresectable anaplastic astrocytoma s/p radiation,
   currently undergoing chemo with avastin.
   -neuro onc recs
 Dr. [**Last Name (STitle) 2351**] paged and e-mailed yesterday
   -solumedrol IV, dexamethasone at home.
   .
   # ARF
 Resolved with IVF and pressors. Etiology likely Pre-renal.
    -trend Cr.
   -will send ulytes, renal u/s if continues.
   .
   # Leukopenia-likely secondary to chemotherapy. Not neutropenic
   -trend WBC.
   .
   # Anemia-likely secondary to chemotherapy +/- ACD.
   -iron studies
   -trend HCT
   -guaiac stools
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   18 Gauge - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2144-11-15 11:33:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off pressors.
   Doing well this morning, so extubated.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2144-11-13**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-11-13**] 08:00 AM
   Levofloxacin - [**2144-11-13**] 03:00 PM
   Vancomycin - [**2144-11-14**] 12:30 AM
   Cefazolin - [**2144-11-15**] 05:45 AM
   Metronidazole - [**2144-11-15**] 08:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-11-15**] 12:23 AM
   Famotidine (Pepcid) - [**2144-11-15**] 08:04 AM
   Other medications:
   colace, Flagyl, methylpred 80 q 8, sqi, fluoxetine, H2B, CHG,
   cefazolin, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-15**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 66 (60 - 96) bpm
   BP: 112/72(82) {96/56(67) - 114/75(83)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (4 - 20)mmHg
   CO/CI (Fick): (6 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 61 - 61
   Total In:
                                                                  2,994 mL
                                                                    602 mL
   PO:
   TF:
   IVF:
                                                                  2,954 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    565 mL
   Urine:
                                                                  1,340 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,654 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 589) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, protuberant
   Extremities: Right: 1+ edema, Left: 1+ edema
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   46 K/uL
   113 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.0 mEq/L
   17 mg/dL
   107 mEq/L
   142 mEq/L
   23.5 %
   1.5 K/uL
        [image002.jpg]
                             [**2144-11-12**]  09:05 PM
                             [**2144-11-13**]  04:23 AM
                             [**2144-11-13**]  05:50 AM
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
                             [**2144-11-15**]  09:01 AM
   WBC
   2.4
   3.9
   2.7
   2.6
   1.8
   1.5
   Hct
   33.4
   31.3
   27.4
   24.8
   24.5
   23.8
   23.5
   Plt
   148
   140
   88
   75
   58
   46
   Cr
   1.0
   0.7
   0.6
   0.4
   0.5
   0.4
   TropT
   0.05
   0.15
   0.30
   0.30
   0.23
   TCO2
   19
   Glucose
   151
   218
   222
   180
   128
   113
   Other labs: PT / PTT / INR:15.9/32.5/1.4, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:97.0 %, Band:1.0 %, Lymph:1.0
   %, Mono:0.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   41-year-old man with malignancy astrocytoma who presented with
   respiratory failure and septic shock from a urinary source.
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 SHOCK, SEPTIC
          Shock now resolved
          Will need antibiotics for two weeks for presumptive
   pyelonephritis.  There was no evidence of a peri-nephric abscess on
   CCT.
 THROMBOCYTOPENIA, ACUTE
          Essentially pancytopenic at this point.
          HIT is in DDx given time course, exposure, and platelet
   level; however, other causes are more likely.
          Will therefore assess for PF4 and hold heparin but not
   exchange CVL at this point
 HEART FAILURE (CHF), SYSTOLIC, ACUTE (stress cardiomyopathy / apical
   ballooning syndrome)
          Discuss with cardiology regarding need for anticoagulation
          Echo in a week or so to assess for resolution
          Just off pressors for < 24 hours.  Consider diuresis late
   today or tomorrow.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
          Now extubated
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
   ICU Care
   Nutrition: assess swallowing
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   18 Gauge - [**2144-11-12**] 08:00 PM
   Leave CVL in place for today.  Likely out tomorrow.
   Prophylaxis:
   DVT: Boots(heparin held secondary to thrombocytopenia)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: discussed with patient and family
   Code status: DNR
   Disposition :ICU
   Total time spent:  35 min
   Patient is critically ill

2144-11-16 12:54:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, CHF, urinary infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated yesterday morning. Has done well off the ventilator
   for the past 24 hours. Fluid balance has been negative.
   Mental status is good. Cannot move right foot, which is a chronic issue
   secondary to his astrocytoma; less strength in his left foot compared
   to pre-admission.
   Off pressors for 24-48 hours
   24 Hour Events:
 BLOOD CULTURED - At [**2144-11-15**] 09:16 AM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-13**] 03:00 PM
   Vancomycin - [**2144-11-14**] 12:30 AM
   Cefazolin - [**2144-11-16**] 05:25 AM
   Metronidazole - [**2144-11-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-11-16**] 08:00 AM
   Other medications:
   insulin, fluoxetine, dexamethosone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-16**] 12:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 65 (53 - 106) bpm
   BP: 118/71(84) {105/64(73) - 123/80(87)} mmHg
   RR: 17 (17 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (8 - 15)mmHg
   Total In:
                                                                  1,750 mL
                                                                    350 mL
   PO:
                                                                    570 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,180 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                  1,040 mL
   Urine:
                                                                  1,210 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: No(t)
   Normal, Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t)
   S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : left base, No(t) Bronchial: , No(t) Wheezes
   : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   62 K/uL
   160 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   106 mEq/L
   141 mEq/L
   24.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2144-11-13**]  05:50 AM
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
                             [**2144-11-15**]  09:01 AM
                             [**2144-11-15**]  04:02 PM
                            [**2144-11-16**]  04:09 AM
   WBC
   2.7
   2.6
   1.8
   1.5
   2.5
   3.7
   Hct
   27.4
   24.8
   24.5
   23.8
   23.5
   24.4
   24.3
   Plt
   88
   75
   58
   46
   61
   62
   Cr
   0.6
   0.4
   0.5
   0.4
   0.4
   0.4
   TropT
   0.30
   0.30
   0.23
   TCO2
   19
   Glucose
   222
   180
   128
   113
   189
   160
   Other labs: PT / PTT / INR:16.3/26.2/1.5, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 THROMBOCYTOPENIA, ACUTE
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   ANEMIA
   THROMBOCYTOPENIA
   Patient doing well off the ventilator. Good inspiratory capacity. No
   dyspnea. Oxygenation good on low amount of supplemental oxygen.
   Hemodynamically stable.
   Low hct and platelet count stable. Not at level that requires
   transfusion.
   Complaining of diarrhea today. Will send stool for C. Diff.
   Keeping fluids event to slightly negative.
   Completing course of antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2144-11-16 22:16:00 Physician Resident Progress Note
Chief Complaint: sepsis, hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2144-11-15**] 09:16 AM
   - Extubated
   - Adjusted steroids to home dose dose
   - Staffed by Cardiology
   - D/C'd SQH secondary to thrombocytopenia
   - HIT sent
   - Diet Advanced
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-11-14**] 12:30 AM
   Metronidazole - [**2144-11-16**] 08:00 AM
   Cefazolin - [**2144-11-16**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-11-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2144-11-16**] 10:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 53 (51 - 75) bpm
   BP: 113/63(75) {105/63(73) - 135/77(88)} mmHg
   RR: 27 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,750 mL
                                                                    500 mL
   PO:
                                                                    570 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,180 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                  1,780 mL
   Urine:
                                                                  1,210 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                 -1,280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Decreased, [**2-11**]
   in LLE, 0/5 in RLE
   Labs / Radiology
   62 K/uL
   8.3 g/dL
   160 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   106 mEq/L
   141 mEq/L
   26.9 %
   3.7 K/uL
        [image002.jpg]
                             [**2144-11-13**]  03:42 PM
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
                             [**2144-11-15**]  09:01 AM
                             [**2144-11-15**]  04:02 PM
                            [**2144-11-16**]  04:09 AM
                            [**2144-11-16**]  05:35 PM
   WBC
   2.7
   2.6
   1.8
   1.5
   2.5
   3.7
   Hct
   27.4
   24.8
   24.5
   23.8
   23.5
   24.4
   24.3
   26.9
   Plt
   88
   75
   58
   46
   61
   62
   Cr
   0.6
   0.4
   0.5
   0.4
   0.4
   0.4
   TropT
   0.30
   0.30
   0.23
   Glucose
   222
   180
   128
   113
   189
   160
   Other labs: PT / PTT / INR:16.3/26.2/1.5, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0
   %, Mono:8.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 THROMBOCYTOPENIA, ACUTE
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   41 y.o male with unresectable anaplastic astrocytoma of the spine who
   p/w with weakness and hypotension.
   .
   # Septic Shock
 Ecoli in urine and blood sensitive to cefazolin. Pt
   remains afebrile, off pressors now for >24 hrs. Pt still having loose
   stools. C Diff x1neg, treating empirically with Flagyl.
   -rpt 2 more C diff stool tests
   - Trend WBC count fever curve.
   - Decrease steroids to home dose
 Dexa 4 Q 12
   - Cont Cefazolin (now day #[**4-20**])
   - Cont Flagyl while awaiting further C.Diff studies
   .
   # Takatsubo Cardiomyopathy: EF now 30%, likely [**2-8**] septic shock without
   coronary distribution.
   - Per cards today
 starting captopril in light of possible recent
   NSTEMI and reordanization
   - Repeat TTE in [**4-12**] days
   # Thrombocytopenia: Platlets 62 today. HIT negative ddx includes GNR
   septicemia and or consumption.
   -Consider restarting SCHeparin in am
   - d/w cards anticoagulation
   ..
   # Malignancy - Unresectable anaplastic astrocytoma s/p radiation,
   currently undergoing chemo with avastin.
   - F/u neuro onc
   -cont  dexamethasone at home dose.
   .
   # Leukopenia- Likely secondary to chemotherapy. Not neutropenic
   -trend WBC
   - f/u heme-onc recs
   .
   # Anemia- Likely secondary to chemotherapy +/- ACD.
   - f/u Iron studies
   - trending HCT
   -guaiac stools
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2144-11-17 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -Called out to OMED
   -PT consulted but pt unable to get oob to chair
   -Captopril started on rec of Cards for ?remodelling s/p likely NSTEMI
   - pm HCT stable
   - Goal at least -500 but did -1.3L without diuretics
   - Last + Blood cx from [**11-13**]
   -C Diff neg x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2144-11-17**] 12:00 AM
   Cefazolin - [**2144-11-17**] 05:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-11-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-17**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 46 (46 - 75) bpm
   BP: 135/73(87) {111/62(75) - 135/77(88)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                    740 mL
                                                                    440 mL
   PO:
                                                                    390 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    465 mL
   Urine:
                                                                  1,900 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,160 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Gen: NAD, AOx3
   HEENT:  MMM
   CV: distant heart sounds, but RRR, no M/R/G
   Pulm: CTAB anteriorly
   Abd: soft, Not TTP, mild distention, BS +
   Extr: 3+ edema at ankles and hands, Pulses 2+ symmetric
   Neuro: CN grossly intact, Strength 5/5 in UE, [**1-11**] in LLE, 0/5 in RLE,
   Sensation grossly intact in UE, absent in LE, Upgoing toes
   Labs / Radiology
   97 K/uL
   9.1 g/dL
   162 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   26.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
                             [**2144-11-15**]  09:01 AM
                             [**2144-11-15**]  04:02 PM
                            [**2144-11-16**]  04:09 AM
                            [**2144-11-16**]  05:35 PM
                            [**2144-11-17**]  04:34 AM
   WBC
   2.7
   2.6
   1.8
   1.5
   2.5
   3.7
   8.5
   Hct
   27.4
   24.8
   24.5
   23.8
   23.5
   24.4
   24.3
   26.9
   26.2
   Plt
   88
   75
   58
   46
   61
   62
   97
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   TropT
   0.30
   0.23
   Glucose
   180
   128
   113
   189
   160
   162
   Other labs: PT / PTT / INR:15.9/24.0/1.4, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:77.0 %, Band:9.0 %, Lymph:5.0
   %, Mono:3.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 THROMBOCYTOPENIA, ACUTE
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   41 y.o male with unresectable anaplastic astrocytoma of the spine who
   p/w with weakness and hypotension.
   .
   # Septic Shock
 Ecoli in urine and blood sensitive to cefazolin. Pt
   remains afebrile, off pressors now for >48 hrs. Last positive blood Cx
   on [**2144-11-13**].  Pt still having loose stools. C Diff x2neg, treating
   empirically with Flagyl.
   -rpt C diff stool tests
   - Trend WBC count fever curve.
   - Continue steriods at home dose
 Dexa 4 Q 12
   - Cont Cefazolin (now day #[**5-20**])
   - Place PICC for IV Abx
   - Cont Flagyl and contact precautions while awaiting one more C.Diff
   .
   # Takatsubo Cardiomyopathy: EF now 30%, likely [**2-8**] septic shock without
   coronary distribution.
   - Continue captopril in light of possible NSTEMI and reorganization
   - Repeat TTE by [**2144-11-23**]
   # Thrombocytopenia: Platlets 97 today. HIT negative ddx includes GNR
   septicemia and or consumption.
   -Consider restarting SCHeparin
   ..
   # Malignancy - Unresectable anaplastic astrocytoma s/p radiation,
   currently undergoing chemo with avastin.
   - F/u neuro onc
   -cont  dexamethasone at home dose.
   .
   # Leukopenia- WBC in normal range today
   -trend WBC
   - f/u heme-onc recs
   .
   # Anemia- Likely secondary to chemotherapy +/- ACD.
   - trending HCT
   -guaiac stools
   ICU Care
   Nutrition: Clears, ADAT
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2144-11-17 13:28:00 Physician Attending Progress Note
Chief Complaint: Hypotension, pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hemodynamically stable 48 hours off pressors.
   Gas exchange improved. Good O2 sats on minimal supplemental oxygen.
   WBC up with left shift. Afebrile.
   24 Hour Events:
 CALLED OUT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2144-11-17**] 05:30 AM
   Metronidazole - [**2144-11-17**] 08:15 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2144-11-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-17**] 01:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 47 (46 - 75) bpm
   BP: 130/72(86) {113/62(75) - 145/80(94)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                    740 mL
                                                                    650 mL
   PO:
                                                                    390 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    813 mL
   Urine:
                                                                  1,900 mL
                                                                    813 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,160 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few scattered rales, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: Left base, No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: back - follicular, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   97 K/uL
   162 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   26.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2144-11-13**]  09:55 PM
                             [**2144-11-14**]  03:19 AM
                             [**2144-11-14**]  04:15 PM
                             [**2144-11-14**]  08:32 PM
                             [**2144-11-15**]  02:22 AM
                             [**2144-11-15**]  09:01 AM
                             [**2144-11-15**]  04:02 PM
                            [**2144-11-16**]  04:09 AM
                            [**2144-11-16**]  05:35 PM
                            [**2144-11-17**]  04:34 AM
   WBC
   2.7
   2.6
   1.8
   1.5
   2.5
   3.7
   8.5
   Hct
   27.4
   24.8
   24.5
   23.8
   23.5
   24.4
   24.3
   26.9
   26.2
   Plt
   88
   75
   58
   46
   61
   62
   97
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   TropT
   0.30
   0.23
   Glucose
   180
   128
   113
   189
   160
   162
   Other labs: PT / PTT / INR:15.9/24.0/1.4, CK / CKMB /
   Troponin-T:181/16/0.23, ALT / AST:40/28, Alk Phos / T Bili:70/1.2,
   Amylase / Lipase:/14, Differential-Neuts:77.0 %, Band:9.0 %, Lymph:5.0
   %, Mono:3.0 %, Eos:0.0 %, D-dimer:1225 ng/mL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:321 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 THROMBOCYTOPENIA, ACUTE
 URINARY TRACT INFECTION (UTI)
 BACTEREMIA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), OTHER
   astrocytoma
 SHOCK, SEPTIC
 ACIDOSIS, METABOLIC
 PNEUMONIA, ASPIRATION
   Hemodynamics improved. Will try to wean off oxygen today.
   Afebrile, but WBC elevated. Monitor cultures on present antibiotics.
   Hct stable. Not at threshold for transfusion.
   Platelet count improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Not applicable.
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes